US09057929B2
Synthesis of 1,2-dimethylquinolinium 2,4,6-trimethylbenzenesulfonate:
2-methylquinoline (18.5 ml, 0.130 mol) and methyl 2,4,6-trimethylbenzenesulfonate (27.82 g, 0.130 mol, 1 equiv.) were dissolved in 1,2-dimethoxyethane and stirred at 70° C. for four days. The solution became violet-colored and the white solid was precipitated. The solution was filtered, and the filtered solution was dried in a vacuum oven at 50° C., affording light pink powder at a yield of 50%.

reactant | 2-methylquinoline | 0.130 mol, 18.5 ml | CC1=NC2=CC=CC=C2C=C1 | C10H9N
reactant | methyl 2,4,6-trimethylbenzenesulfonate | 0.130 mol, 27.82 g, 1 equiv. | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)OC | C10H14O3S
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 1,2-dimethylquinolinium 2,4,6-trimethylbenzenesulfonate | yield of 50% | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-].C[N+]1=C(C=CC2=CC=CC=C12)C | InChI=1S/C11H12N.C9H12O3S/c1-9-7-8-10-5-3-4-6-11(10)12(9)2;1-6-4-7(2)9(8(3)5-6)13(10,11)12/h3-8H,1-2H3;4-5H,1-3H3,(H,10,11,12)/q+1;/p-1
